US06265411B1
2,5-Dibromonitrobenzene (41.5 g, 148 mmol) was dissolved in anhydrous DMF (500 ml) and sodium hydride (17.7 g of a 60% suspension in mineral oil, 443 mmol) was added under argon. Diethyl malonate (49.6 g, 295 mmol) was added dropwise over 10 minutes giving a strong exotherm (mixture rose to 60° C.). The reaction mixture was maintained at 60° C. for 6 hours then left to cool to ambient temperature and stirred for 18 hours. The resulting dark red solution was poured slowly into 2M hydrochloric acid (1500 ml) and extracted with ether (500 ml×4). The organic phases were combined, washed with brine, dried (MgSO4) and the solvent removed by evaporation. The crude oil was purified by flash chromatography eluting with isohexanes/ethyl acetate (100/0, then 95/5 and finally 80/20) to give diethyl(4-bromo-2-nitrophenyl)malonate (51 g, 96%).

reactant | 2,5-Dibromonitrobenzene | 148 mmol, 41.5 g | BrC1=C(C=C(C=C1)Br)[N+](=O)[O-] | C6H3Br2NO2
reactant | sodium hydride | [H-].[Na+]
reactant | Diethyl malonate | 295 mmol, 49.6 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | hydrochloric acid | 2M, 1500 ml | Cl | ClH
solvent | DMF | 500 ml | CN(C)C=O | C3H7NO
product | diethyl(4-bromo-2-nitrophenyl)malonate | 51 g, 96% | C(C)OC(C(C(=O)OCC)C1=C(C=C(C=C1)Br)[N+](=O)[O-])=O | C13H14BrNO6
